US06051712
(α) A solution of 16.7 g (106 mmol) of 3-bromo-pyridine in 200 ml of tert-butyl methyl ether was cooled to -75° C. Thereto there was added dropwise within 45 minutes a solution of 66 ml (106 mmol) of n-butyllithium (1.6M in hexane) and the mixture was stirred at -75° C. for one hour. Subsequently, a solution of 10.0 g (52.8 mmol) of 1-benzyl-4-piperidone in 50 ml of tert-butyl methyl ether was added dropwise at -70° C. to -75° C. and thereafter the mixture was stirred for 2 hours. Subsequently, the mixture was left to warm to room temperature. Thereafter, it was hydrolyzed with 50 ml of water and extracted with 100 ml of ethyl acetate. The organic phase was dried over magnesium sulphate and finally the solvent was evaporated under reduced pressure, with the product beginning to separate. From the evaporated mother liquor there were isolated by crystallization from a mixture of ethyl acetate and hexane a further 1.9 g, so that a total of 8.4 g (60% of theory) of 1'-benzyl-2',3',5',6'-tetrahydro-1'H-[3,4']bipyridinyl-4'-ol were obtained as a colourless solid; MS: 268 (M+H)+.

reactant | 3-bromo-pyridine | 106 mmol, 16.7 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | n-butyllithium | 106 mmol, 1.6M, 66 ml | C(CCC)[Li]
reactant | 1-benzyl-4-piperidone | 52.8 mmol, 10.0 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | water | 50 ml | O | H2O
solvent | tert-butyl methyl ether | 200 ml | COC(C)(C)C | C5H12O
solvent | tert-butyl methyl ether | 50 ml | COC(C)(C)C | C5H12O
product | 1'-benzyl-2',3',5',6'-tetrahydro-1'H-[3,4']bipyridinyl-4'-ol | 8.4 g, 60% | C(C1=CC=CC=C1)N1CCC(CC1)(C=1C=NC=CC1)O | C17H20N2O
